US07368578B2
A mixture of 4-chloromethyl-2-ethyl-1,3-oxazole (2.90 g), triphenylphosphine (5.22 g) and acetonitrile (100 mL) was heated under reflux for 15 hrs. After concentration of the reaction mixture, the precipitated crystals were washed with diethyl ether to give [(2-ethyl-1,3-oxazol-4-yl)methyl]triphenylphosphonium chloride as colorless crystals (6.57 g, yield 81%). Recrystallization from acetonitrile-diethyl ether gave colorless prism crystals. melting point: 223-224° C.

reactant | 4-chloromethyl-2-ethyl-1,3-oxazole | 2.90 g | ClCC=1N=C(OC1)CC | C6H8ClNO
reactant | triphenylphosphine | 5.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | [(2-ethyl-1,3-oxazol-4-yl)methyl]triphenylphosphonium chloride | 6.57 g, yield 81% | [Cl-].C(C)C=1OC=C(N1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H23NOP.ClH/c1-2-24-25-20(18-26-24)19-27(21-12-6-3-7-13-21,22-14-8-4-9-15-22)23-16-10-5-11-17-23;/h3-18H,2,19H2,1H3;1H/q+1;/p-1
